US04230850
4-(3'-Morpholino-2'-methylpropoxy)-3-phenyl-8-hydroxy-coumarin
Prepared according to the method of Example 30 by alkylation of 4,8-dihydroxy-3-phenyl-coumarin by 1-chloro-2-methyl-3-morpholino-propane. After recrystallisation from isopropanol, a white solid is obtained with the melting point of 136° C. Yield 60.7%.

reactant | 4,8-dihydroxy-3-phenyl-coumarin | OC1=C(C(OC2=C(C=CC=C12)O)=O)C1=CC=CC=C1 | C15H10O4
reactant | 1-chloro-2-methyl-3-morpholino-propane | ClCC(CN1CCOCC1)C | C8H16ClNO
product | 4-(3'-Morpholino-2'-methylpropoxy)-3-phenyl-8-hydroxy-coumarin | Yield 60.7% | O1CCN(CC1)CC(COC1=C(C(OC2=C(C=CC=C12)O)=O)C1=CC=CC=C1)C | C23H25NO5
